US06281231B1
0.36 g of 2,6-dichloro-4-pyridinemethanol and 0.1 g of triethylamine were dissolved into 2 ml of THF, 0.12 g of acrylonitrile were added to the solution at room temperature, and stirring was conducted for 2 hours. After the reacted solution was left overnight at room temperature, ethyl acetate was added. The organic phase was washed with water, and was dried by adding sodium sulfate. The solvent was removed by evaporation, and the residue was purified by silica gel column chromatography to obtain 0.23 g of 2,6-dichloro-4-(2-cyanoethoxymethyl)pyridine (Compound No. 6).

reactant | 2,6-dichloro-4-pyridinemethanol | 0.36 g | ClC1=NC(=CC(=C1)CO)Cl | C6H5Cl2NO
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | acrylonitrile | 0.12 g | C(C=C)#N | C3H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-dichloro-4-(2-cyanoethoxymethyl)pyridine | 0.23 g | ClC1=NC(=CC(=C1)COCCC#N)Cl | C9H8Cl2N2O
